US07452992B2
To a solution of tert-butyl 2-(2-oxoethyl)-2-phenylmorpholine-4-carboxylate (226.1 mg, 0.74 mmol), 1-[(1R,5S)8-azabicyclo[3.2.1]oct-3-yl]-2-methyl-1H-benzimidazole dihydrochloride (272.7 mg, 0.74 mmol) and diisopropylethylamine (0.27 mL, 1.48 mmol) in 3 mL CH2Cl2 was added sodium triacetoxyborohydride (235.4 mg, 1.11 mmol) and the reaction mixture was stirred for 2 h at room temperature. After evaporation, the residue was chromatographed (5% (2M NH3/MeOH) in CHCl3) to provide tert-butyl 2-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-2-phenylmorpholine-4-carboxylate (329.9 mg, 84%) as an off-white foam: 1H NMR (400 MHz, CDCl3), δ 7.65 (m, 1H), 7.49-7.40 (br., 2H), 7.39-7.34 (m, 2H), 7.31 (m, 1H), 7.27 (m, 1H), 7.19-7.11 (m, 2H), 4.75-4.16 (m, 2H), 3.76-3.47 (m, 3H), 3.40-3.13 (m, 4H), 2.58 (s, 3H), 2.46-2.32 (m, 2H), 2.17-1.82 (m 8H), 1.63 (m, 2H), 1.53-1.40 (br., 9H); ESI-MS 531 (M+H), 553 (M+Na).

reactant | tert-butyl 2-(2-oxoethyl)-2-phenylmorpholine-4-carboxylate | 0.74 mmol, 226.1 mg | O=CCC1(CN(CCO1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H23NO4
reactant | 1-[(1R,5S)8-azabicyclo[3.2.1]oct-3-yl]-2-methyl-1H-benzimidazole dihydrochloride | 0.74 mmol, 272.7 mg | Cl.Cl.[C@H]12CC(C[C@H](CC1)N2)N2C(=NC1=C2C=CC=C1)C
reactant | diisopropylethylamine | 1.48 mmol, 0.27 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium triacetoxyborohydride | 1.11 mmol, 235.4 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-2-phenylmorpholine-4-carboxylate | 329.9 mg, 84% | CC1=NC2=C(N1C1C[C@H]3CC[C@@H](C1)N3CCC3(CN(CCO3)C(=O)OC(C)(C)C)C3=CC=CC=C3)C=CC=C2 | C32H42N4O3
